US04367238
2-Methoxy-3-(o-tolyloxy)benzaldehyde (28 g), malonic acid (24 g), pyridine (200 ml) and piperidine (2 ml) were treated in a similar manner to that of Example 4-(4), and the resultant crude product was crystallized with a mixture of benzene and n-hexane to give 3-[2-methoxy-3-(o-tolyloxy)phenyl]acrylic acid (17.5 g). mp 143°-146° C.

reactant | 2-Methoxy-3-(o-tolyloxy)benzaldehyde | 28 g | COC1=C(C=O)C=CC=C1OC1=C(C=CC=C1)C | C15H14O3
reactant | malonic acid | 24 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 2 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 3-[2-methoxy-3-(o-tolyloxy)phenyl]acrylic acid | 17.5 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)C)C=CC(=O)O | C17H16O4
